US04374143
Preparation of 2-(4-cyclohexylphenyl)imino-hexahydropyrimidine zinc chloride complex
10.3 g of 2-(4-cyclohexylphenyl)imino-hexahydropyrimidine are dissolved in 150 ml of warm acetonitrile. To this solution is added a warm solution of 2.7 g of zinc-chloride in acetonitrile. The solvent is then evaporated after which the 2-(4-cyclohexylphenyl)imino-hexahydropyrimidine zinc chloride complex is obtained. The complex is characterized by the I.R.-spectrum.

reactant | 2-(4-cyclohexylphenyl)imino-hexahydropyrimidine | 10.3 g | C1(CCCCC1)C1=CC=C(C=C1)N=C1NCCCN1 | C16H23N3
reactant | zinc-chloride | 2.7 g | [Cl-].[Zn+2].[Cl-]
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | 2-(4-cyclohexylphenyl)imino-hexahydropyrimidine zinc chloride | [Cl-].[Zn+2].C1(CCCCC1)C1=CC=C(C=C1)N=C1NCCCN1.[Cl-] | InChI=1S/C16H23N3.2ClH.Zn/c1-2-5-13(6-3-1)14-7-9-15(10-8-14)19-16-17-11-4-12-18-16;;;/h7-10,13H,1-6,11-12H2,(H2,17,18,19);2*1H;/q;;;+2/p-2
